US04962230
In a 100 ml autoclave, the inside atmosphere of which had previously been replaced with argon, were placed 0.34 g (2 mmoles) of geranic acid, 20 ml of methanol, and 0.39 g (2 mmoles) of dicyclohexylmethylamine. Then, 5.6 mg (0.007 mmole) of Ru((+)-BINAP)(O2CCH3)2 prepared according to the same manner as in Referential Example 3 except using (+)-BINAP in place of (-)-BINAP was added to the mixture to perform hydrogenation for 12 hours at a hydrogen pressure of 100 kg/cm2 and at a reaction temperature of 25° C. Thereafter, the solvent was distilled off to provide 0.34 g of citronellic acid.

reactant | geranic acid | 2 mmoles, 0.34 g | C(\C=C(/C)\CCC=C(C)C)(=O)O | C10H16O2
reactant | dicyclohexylmethylamine | 2 mmoles, 0.39 g | C1(CCCCC1)C(C1CCCCC1)N | C13H25N
reactant | (+)-BINAP | C1=CC=C(C=C1)P(C2=CC=CC=C2)C3=C(C4=CC=CC=C4C=C3)C5=C(C=CC6=CC=CC=C65)P(C7=CC=CC=C7)C8=CC=CC=C8 | C44H32P2
reactant | hydrogen | [H][H] | H2
solvent | methanol | 20 ml | CO | CH4O
product | citronellic acid | 0.34 g | C(CC(C)CCC=C(C)C)(=O)O | C10H18O2
